Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
Colovesicular fistula
 
Major Surgical or Invasive Procedure:
Placement of left-sided ureteral stent, sigmoid colectomy, 
takedown of colovesicular fistula, mobilization of splenic 
flexure and diverting loop ileostomy.

 
History of Present Illness:
The patient is a ___ woman, with COPD on steroids with 
enlarging thoracic aortic aneurysm, colovesicular fistula from 
diverticulitis, as well as lung lesion, who presented for 
management of diverticulitis. Cystoscopy revealed a small 
bladder mass that seemed external on the left side.  CT and
MRI and also confirmed that there is diverticulitis in the left 
colon with involvement of the bladder. 
 
Past Medical History:
Thoracic aortic aneurysm
Hypertension
Hyperlipidemia 
Asthma/COPD 
Mild renal insufficiency, proteinuria 
___ Hx of CVA (transient visual disturbance)
Right lung nodule
Hypothyroidism
Glucose intolerance, ? due to prednisone use
Polymyalgia rheumatica/ giant cell arteritis (currently on
steroid taper)
___: total abdominal Hysterectomy for uterine cancer
+ PPD
s/p removal of colon polyps
Presumed UTI, s/p course of Cipro (completed on ___
Tonsillectomy
s/p C-section
Arthritis involving neck and spine
 
Social History:
___
Family History:
Mother with abdominal aortic aneurysm
No history of colorectal cancer
 
Physical Exam:
On discharge:
98.9 69 133/66 16 98% RA
General: Appears well, NAD
CV: RRR
Resp: CTAB, no distress
Abd: Soft, nontender, nondistended, incisions c/d/i, stoma pink 
with liquid stool
Ext: No peripheral edema
 
Pertinent Results:
___ 05:35AM BLOOD WBC-10.1 RBC-3.55* Hgb-11.1* Hct-32.9* 
MCV-93 MCH-31.2 MCHC-33.6 RDW-13.9 Plt ___
___ 05:30AM BLOOD Glucose-106* UreaN-15 Creat-0.9 Na-140 
K-4.3 Cl-104 HCO3-28 AnGap-12

Echo (___):
The left atrium is mildly dilated LVEF 70%. Focal wall motion 
abnormality cannot be fully excluded. The abdominal aorta is 
markedly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. 

Renal US (___):
No evidence of hydronephrosis

KUB ___ & ___:
 Multiple dilated loops of small bowel with air-fluid levels 
likely suggestive of a postoperative ileus; however, obstruction 
cannot be 
ruled out. 

CT abd/pelvis (___):
1. Dilated fluid-filled loops of small bowel up to 5 cm with 
multiple 
air-fluid levels and a gradual transition point in the proximal 
ileum but 
without any upstream fecalization. This appearance is likely 
related to an 
underlying ileus with the decompressed distal ileum related to 
lack of 
contrast progression at the time of exam.   
2. Streaky opacities in the right middle lobe with some more 
peripheral 
centrilobular nodules likely reflect a combination of 
atelectasis and mild 
infectious bronchiolitis. 
3. No findings of abscess within the abdomen or pelvis. Normal 
appearance to the loop ileostomy and colocolonic anastomosis 
site. Submucosal fatty 
deposition within the ascending colon is nonspecific and may 
reflect chronic inflammation or secondary to patient body 
habitus and steroid use. 
 
Brief Hospital Course:
Ms. ___ was admitted on ___ after undergoing sigmoid 
colectomy with coloproctostomy and diverting loop ileostomy for 
colovesicular fistula and diverticulitis without complications. 
Due to the length of her case and low urine output in PACU, 
patient was transferred to the ICU extubated for volume 
resuscitation and monitoring. Her course is detailed below by 
system:

1. Neuro: Patient was neurologically at baseline throughout her 
stay.  Her pain was initially controlled with an epidural 
catheter which was dced on POD#4. Patient was then transitioned 
from IV to po pain meds as she was tolerated po intake. 

2. CV: While in ICU, patient was fluid resuscitated for low 
urine output, however SBP was normal throughout. Patient 
developed an increasing O2 requirement on POD#2 and an echo was 
performed to assess for CHF secondary to resuscitation. ECHO 
showed a normal EF and no signs of fluid overload. She was 
maintained on home medications when taking po. 

3. Resp: Patient was extubated in the OR and had increased O2 
requirement on POD#2. CXR performed at that time showed mild 
atelectasis b/l but no signs of pneumonia. O2 was gradually 
weaned and patient's O2 sats were >95% on room air at the time 
of discharge. She was given nebulizer treatments for her COPD. 

4. GI: Patient's ostomy was pink and protubertant throughout 
stay. Her diet was advanced from clears to regular when passing 
flatus. However, on POD5, patient had an episode of bilious 
emesis. She was made NPO and started on IV fluids. KUB was 
performed revealing an ileus. Due to continued nausea, abdominal 
distension, and emesis, an NG tube was placed on POD#8 with 900 
cc of bilious return. Patient was encourage to ambulate and 
minimize narcotics and reglan was started. Due to prolonged NPO 
status, a PICC line was placed and TPN started. A CT abdomen was 
performed to investigate prolonged ileus and revealed ileus with 
no clear SBO or fluid collections. Once distension had resolved, 
patient's NGT was clamped for 6 hours with no nausea or 
distension. NGT was removed and she was started on clear 
liquids. She was advanced to regular diet when ostomy had good 
output and gas, which she was tolerating at the time of 
discharge.

4. Renal/GU: Patient had low urine output perioperatively and 
was fluid resuscitated in ICU. Her Cr peaked at 2 on POD#1 with 
FeNa of 1%. Renal US was performed with no evidence of 
hydronephrosis. With continued resuscitation, Cr trended 
downward. Once transferred to the floor (POD#4), patient was 
diuresed with IV lasix back to baseline weight. Cr at discharge 
was 0.9

5. Heme/ID: Patient was on heparin SC and venodyne boots for DVT 
prophylaxis. She was given 24 hours of periop antibiotics. 

6. Endo: Patient was given stress dose steroids perioperatively 
and then resumed on home dose when taking po. She was kept on an 
insuline sliding scale and her levothyroxine was continued. 

Dispo: Patient was evaluated by physical therapy with 
recommendations for discharge home. She worked with the 
inpatient stoma nurse and received education.
 
Medications on Admission:
albuterol prn
fluticasone 110 2 puffs BID 
Spiriva 18 daily
Atenolol 50mg daily
HCTZ 25mg
Irbesartan 300mg daily
Wellbutrin ER 150mg daily 
Prozac 40mg daily
Levothyroxine 250mg daily
Prednisone 5mg daily
Aspirin 325mg daily
B vitamins
Calcium
Vitamin D
Augmentin 875mg twice daily
 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
3. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
4. levothyroxine 125 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO QAM (once a day (in the morning)).  
6. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
7. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
8. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. irbesartan 150 mg Tablet Sig: Two (2) Tablet PO daily ().  
10. atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for pain for 5 days: Do not drink alcohol or 
drive a car while taking this medication. .
Disp:*30 Tablet(s)* Refills:*0*
12. Vitamin B Complex  Oral
13. Calcium 500  Oral
14. Vitamin D  Oral

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Diverticulitis with colovesicular fistula.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital after a Sigmoid Colectomy for 
surgical management of your Diverticulitis. ___ have recovered 
from this procedure well and ___ are now ready to return home. 
Samples from your colon were taken and this tissue has been sent 
to the pathology department for analysis. ___ will receive these 
pathology results at your follow-up appointment. If there is an 
urgent need for the surgeon to contact ___ regaurding these 
results they will contact ___ before this time. ___ have 
tolerated a regular diet, passing gas and your pain is 
controlled with pain medications by mouth. ___ may return home 
to finish your recovery.

Please monitor your bowel function closely. If ___ have any of 
the following symptoms please call the office for advice or go 
to the emergency room if severe: increasing abdominal 
distension, increasing abdominal pain, nausea, vomiting, 
inability to tolerate food or liquids, prolonges loose stool, or 
constipation. 

___ have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration. The output from the 
stoma is stool from the small intestine and the water content is 
very high. The stool is no longer passing through the large 
intestine which is where the water from the stool is reabsorbed 
into the body and the stool becomes formed. ___ must measure 
your ileostomy output for the next few weeks. The output from 
the stoma should not be more than 1200cc or less than 500cc. 
Please record the output of your ileostomy on the flow sheet 
provided to ___ by the nursing staff. If ___ find that your 
output has become too much or too little, please call the office 
for advice. The office nurse or nurse practitioner can recommend 
medications to increase or slow the ileostomy output. Keep 
yourself well hydrated, if ___ notice your ileostomy output 
increasing, take in more electrolyte drink such as gatoraide. 
Please monitor yourself for signs and symptoms of dehydration 
including: dizziness (especially upon standing), weakness, dry 
mouth, headache, or fatigue. If ___ notice these symptoms please 
call the office or return to the emergency room for evaluation 
if these symptoms are severe. ___ may eat a mosified regular 
diet with your new ileostomy. However it is a good idea to avoid 
spicy foods.

___ have a long vertical incision on your abdomen that is closed 
with staples. This incision can be left open to air or covered 
with a dry sterile gauze dressing if the staples become 
irritated from clothing. The staples will stay in place until 
your first post-operative visit at which time they can be 
removed in the clinic, most likely by the office nurse. Please 
monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if ___ develop a 
fever. Please call the office if ___ develop these symptoms or 
go to the emergency room if the symptoms are severe.  ___ may 
shower, let the warm water run over the incision line and pat 
the area dry with a towel, do not rub. 

Please monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for buldging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery, ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own. Currently your ileostomy is allowing the 
surgery in your large intestine to heal, which does take some 
time. ___ will come back to the hospital for reversal of this 
ileostomy at  a time decided on Dr. ___ that is safe 
to do so. ___ will follow-up in the clinic, and the surgeon will 
decide when will be the best time for your second surgery. Until 
this time there is healthy intestine that is still functioning 
as it normally would and it will produce mucus and some may leak 
or ___ may feel as though ___ need to have a bowel movment and 
___ may sit on the toilet and empty this mucus, it is normal. 

No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by Dr. ___ may gradually increase 
your activity as tolerated but clear heavy excersise with Dr. 
___. 

___ will be prescribed a small amount of the pain medication 
hydromorphone. Please take this medication exactly as 
prescribed. ___ may take Tylenol as recommended for pain. Please 
do not take more than 4000mg of Tylenol daily. Do not drink 
alcohol while taking narcotic pain medication or Tylenol. Please 
do not drive a car while taking narcotic pain medication. 

___ have an appointment with thoracic surgery as listed below to 
evaluate your lung, please keep this appointment.

Thank ___ for allowing us to participate in your care! Our hope 
is that ___ will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___